US04405810
1-benzyl cyclohexane-2,6-dione (17.25 g), p-toluenesulfonylhydrazine (16.52 g) in methanol (290 ml) was treated with concentrated HCl (1 ml) and left at room temperature for 48 hours. Evaporation of the solvent under reduced pressure and crystallization of the residue gave 1-benzylcyclohexane-2,6-dione mono-p-toluenesulfonylhydrazone (5 g) m.p. 172°-3° C.

reactant | 1-benzyl cyclohexane-2,6-dione | 17.25 g | C(C1=CC=CC=C1)C1C(CCCC1=O)=O | C13H14O2
reactant | p-toluenesulfonylhydrazine | 16.52 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | HCl | 1 ml | Cl | ClH
solvent | methanol | 290 ml | CO | CH4O
product | 1-benzylcyclohexane-2,6-dione mono-p-toluenesulfonylhydrazone | 5 g | C1(=CC=C(C=C1)S(=O)(=O)NN=C1C(C(CCC1)=O)CC1=CC=CC=C1)C | C20H22N2O3S
